Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-0.614529780639
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.97932651806
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][H:10].[H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],-2.38698079796
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:6]([H:7])[O:8][H:9].[H:1][C:2][O:3][C:4][H:5],6.67782775079
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.96983951379
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],8.08760419288
[H:1][O:2][C:3]([H:4])[C:5]#[C:7][C:8][C:9]([H:10])[H:11].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-3.26920928625
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-3.86848120181
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.99402737554
[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.64578775674
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:4],1.84266334531
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-0.894406490002
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][H:9]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][O:8][H:9],4.04211521589
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.43666023392
[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.9431391087800005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]1([H:8])[O:9][C:10]1[H:11],-1.86788343463
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6],3.90872400235
[C:1]=[C:2]([H:3])[H:4]>>[C:1].[C:2]([H:3])[H:4],7.984333972589999
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.365343183369999
[H:1][C:2]#[C:3][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-1.86899302181
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-2.91166469023
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[O:8])[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8].[H:9],4.05714576383
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9][O:10][H:11].[H:8],1.60254690023
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],-4.47899339429
[C:5](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.60803538433
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-0.864855111891
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.08674049481
[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.97878100494
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5],2.93591717481
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7].[O:8]=[C:9]([H:10])[H:11],-1.0341109624200002
